US04230714
The procedure described in Example 1 was repeated except that 2-dimethylaminomethyl-3-hydroxy-6-methylpyridine (16.6 g.) and imidazole (6.8 g.) were reacted in xylene (50 ml.) to afford 2-(imidazol-1-ylmethyl)-3-hydroxy-6-methylpyridine (yield, 14.42 g.), m.p. 153°-155° C. after recrystallization from isopropanol/petroleum ether (b.p. 60°-80° C.).

reactant | 2-dimethylaminomethyl-3-hydroxy-6-methylpyridine | 16.6 g | CN(C)CC1=NC(=CC=C1O)C | C9H14N2O
reactant | imidazole | 6.8 g | N1C=NC=C1 | C3H4N2
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(imidazol-1-ylmethyl)-3-hydroxy-6-methylpyridine | 14.42 g | N1(C=NC=C1)CC1=NC(=CC=C1O)C | C10H11N3O
